US07074817B2
[1-Benzyl-6-(3-chlorophenyl)-1H-indol-3-yl](oxo)acetic acid
{1-Benzyl-6-(3-chlorophenyl)-1H-indol-3-yl](oxo)acetic acid was prepared from ethyl [1-benzyl-6-(3-chlorophenyl)-1H-indol-3-yl](oxo)acetate (0.489 g, 1.17 mmol), and potassium hydroxide (0.214 g, 3.81 mmol) in THF (10 mL) and water (10 mL), according to the procedure described in Step 4 of Example 5. Crystallization from acetonitrile and drying for 24 hours at 94° C. furnished the title compound as a yellow solid (0.275 g, 60%), mp: 186-188° C. Mass spectrum (−ESI, [M−H]−) m/z 388; 1HNMR (500 MHz, DMSO-d6): δ 13.8-14.2 (br s, 1H), 8.7 (s, 1H), 8.25 (d, 1H, J=8.4 Hz), 8.0 (d, 1H, J=0.76 Hz), 7.75 (t, 1H, J=1.8 Hz), 7.65-7.7 (m, 2H), 7.5 (t, 1H, J=7.9 Hz), 7.4 (m, 1H), 7.3-7.4 (m, 4H), 7.25-7.3 (m, 1H), and 5.7 ppm (s, 1H).

reactant | ethyl [1-benzyl-6-(3-chlorophenyl)-1H-indol-3-yl](oxo)acetate | 1.17 mmol, 0.489 g | C(C1=CC=CC=C1)N1C=C(C2=CC=C(C=C12)C1=CC(=CC=C1)Cl)C(C(=O)OCC)=O | C25H20ClNO3
reactant | potassium hydroxide | 3.81 mmol, 0.214 g | [OH-].[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | [1-Benzyl-6-(3-chlorophenyl)-1H-indol-3-yl](oxo)acetic acid | 0.275 g, 60% | C(C1=CC=CC=C1)N1C=C(C2=CC=C(C=C12)C1=CC(=CC=C1)Cl)C(C(=O)O)=O | C23H16ClNO3
